* C:\Users\cianr\OneDrive\Documents\DingoQuadruped\PCBs\PDB\Battery_Mon_Sim.asc
V1 N001 N002 4.2
V2 N002 N003 4.2
V3 N003 cell1 4
V4 cell1 0 4.2
R1 cell4 N001 30k
R2 0 cell4 10k
R3 cell3 N002 20k
R4 0 cell3 10k
R5 cell2 N003 10k
R6 0 cell2 10k
.tran 1
.backanno
.end
